US08313669B2
7.8 g (23.7 mmol) of 3-(3′-benzyloxybiphenyl-3-yl)propanol are hydrogenated to completion in THF on a palladium/activated carbon catalyst. The catalyst is filtered off, the filtrate is evaporated, and the residue is chromatographed on silica gel with toluene/ethyl acetate (2:1), giving 3′-(3-hydroxypropyl)biphenyl-3-ol as a colourless oil.

reactant | 3-(3′-benzyloxybiphenyl-3-yl)propanol | 23.7 mmol, 7.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC(=CC=C1)CCCO | C22H22O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 3′-(3-hydroxypropyl)biphenyl-3-ol | OCCCC=1C=C(C=CC1)C1=CC(=CC=C1)O | C15H16O2
